US07923450B2
a) (1,4-Dioxa-spiro[4.5]dec-6-yl)-pyrrolidin-1-yl-methanone
Pyrrolidine (0.21 mL, 2.5 mmol) was added at 0° C. to a 1 M solution of 1,4-dioxa-spiro[4.5]decane-6-carbonyl chloride in toluene (1 mL, 1 mmol). The mixture was stirred at 20° C. for 1 h, then diluted with ethyl acetate (40 mL), and washed successively with water (10 mL), saturated aquous sodium carbonate solution (10 mL), 1 N hydrochloric acid, and with brine (10 mL). The organic layer was dried over sodium sulfate and evaporated under reduced pressure to give the title compound (97 mg, 41%) as a white solid. MS ISP (m/e): 240.3 (100) [(M+H)+].

reactant | Pyrrolidine | 2.5 mmol, 0.21 mL | N1CCCC1 | C4H9N
reactant | 1,4-dioxa-spiro[4.5]decane-6-carbonyl chloride | O1CCOC12C(CCCC2)C(=O)Cl | C9H13ClO3
reactant | toluene | 1 mmol, 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | (1,4-Dioxa-spiro[4.5]dec-6-yl)-pyrrolidin-1-yl-methanone | 97 mg, 41% | O1CCOC12C(CCCC2)C(=O)N2CCCC2 | C13H21NO3
